US07919621B2
Step 1a: 2,2,2-Trifluoro-1-(2-mercapto-thiazol-5-yl)-ethanone (10a)
iPr2NH (1.0 g, 9.4 mmol) was dissolved in THF (12 mL) and cooled to −10° C. n-Butyllithium (2.5M, 3.8 mL, 9.4 mmol) was added dropwise, and the reaction was cooled to −78° C. Thiazole-2-thiol (1.0 g, 8.5 mmol) in THF (2.5 mL) was added, followed by ethyl trifluoroacetate (1.3 mL, 11.1 mmol), and the reaction was stirred at −78° C. for 1 hours. The reaction was warmed to −10° C. and quenched with 5% aqueous NH4Cl (10 mL). The aqueous layer was acidified and extracted with EtOAc, and the combined organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified by silica gel chromatography (50% EtOAc in hexanes) to give the desired product, 10a.

reactant | iPr2NH | 9.4 mmol, 1.0 g | N(C(C)C)C(C)C | C6H15N
reactant | n-Butyllithium | 9.4 mmol, 2.5M, 3.8 mL | C(CCC)[Li]
reactant | Thiazole-2-thiol | 8.5 mmol, 1.0 g | S1C(=NC=C1)S | C3H3NS2
reactant | ethyl trifluoroacetate | 11.1 mmol, 1.3 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 2,2,2-Trifluoro-1-(2-mercapto-thiazol-5-yl)-ethanone | FC(C(=O)C1=CN=C(S1)S)(F)F | C5H2F3NOS2
